US07547789B2
A slurry of carbonyldiimidazole (1.94 g, 11.98 mmol) in THF (10 ml) was treated with a solution of 4-methylsulphonylphenylacetic acid (2.5 g, 11.68 mmol) in THF (12.5 ml) at ambient temperature and then heated to 50° C. After one hour carbonyldiimidazole (0.189 g, 1.17 mmol) was added. After a further 15 minutes a solution of N-(1-tert-butoxycarbonyl-4-piperidinyl)ethylamine (2.53 g, 11.10 mmol) in toluene (10 ml) was added dropwise over two minutes to the reaction mixture. After 30 minutes at 50° C. the reaction mixture was treated with 1M NaOH (12.5 ml) and the mixture was stired rapidly for 30 min and then allowed to cool to room temperature. The organic layer was separated and washed with aqueous citric acid (10% w/w, 10 ml) and then with water (5 ml). The organic layer was evaporated to dryness to afford N-(1-tert-butoxycarbonyl-4-piperidinyl)-N-ethyl-4-methanesulfonylphenyl-acetamide as a colourless oil (4.75 g, 100%).

reactant | carbonyldiimidazole | 11.98 mmol, 1.94 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 4-methylsulphonylphenylacetic acid | 11.68 mmol, 2.5 g | CS(=O)(=O)C1=CC=C(C=C1)CC(=O)O | C9H10O4S
reactant | carbonyldiimidazole | 1.17 mmol, 0.189 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N-(1-tert-butoxycarbonyl-4-piperidinyl)ethylamine | 11.10 mmol, 2.53 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CCN | C12H24N2O2
reactant | NaOH | 1M, 12.5 ml | [OH-].[Na+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 12.5 ml | C1CCOC1 | C4H8O
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | N-(1-tert-butoxycarbonyl-4-piperidinyl)-N-ethyl-4-methanesulfonylphenyl-acetamide | 4.75 g, 100% | C(C)(C)(C)OC(=O)N1CCC(CC1)N(C(CC1=CC=C(C=C1)S(=O)(=O)C)=O)CC | C21H32N2O5S
